US05972975
N-Acetyl-α-(2-(6-amino-4-methylpyrid-2-yl)ethyl)glycine methyl ester (200 mg, 0.75 mmol) was heated in 6.0 mL of refluxing 2 N aqueous hydrochloric acid for 2.5 h. The solution was cooled and evaporated. The residue was dissolved in 2.75 mL of warm methanol and the solution was concentrated to a volume of 1-1.5 mL. Ethyl acetate (1.0 mL) and seed crystals were added. The crystals were separated using a Craig tube and recrystallized again to give 122 mg (58% yield) of α-(2-(6-amino-4-methylpyrid-2-yl)ethyl)glycine dihydrochloride as white crystals.

reactant | N-Acetyl-α-(2-(6-amino-4-methylpyrid-2-yl)ethyl)glycine methyl ester | 0.75 mmol, 200 mg | COC(C(NC(C)=O)CCC1=NC(=CC(=C1)C)N)=O | C13H19N3O3
reactant | hydrochloric acid | 2 N | Cl | ClH
product | α-(2-(6-amino-4-methylpyrid-2-yl)ethyl)glycine dihydrochloride | 122 mg, 58% yield | Cl.Cl.NC1=CC(=CC(=N1)CCC(N)C(=O)O)C | InChI=1S/C10H15N3O2.2ClH/c1-6-4-7(13-9(12)5-6)2-3-8(11)10(14)15;;/h4-5,8H,2-3,11H2,1H3,(H2,12,13)(H,14,15);2*1H
